* Subcircuit LM334
.subckt LM334 net-_q2-pad3_ net-_q1-pad3_ net-_c1-pad2_ 
.title kicad schematic
.include NPN.lib
.include PNP.lib
q8 net-_q1-pad3_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
q6 net-_q1-pad3_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
q1 net-_q1-pad1_ net-_c1-pad1_ net-_q1-pad3_ Q2N2222
q3 net-_q3-pad1_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
q2 net-_c1-pad1_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
c1 net-_c1-pad1_ net-_c1-pad2_ 50p
q4 net-_c1-pad1_ net-_q3-pad1_ net-_c1-pad2_ Q2N2222
q7 net-_q3-pad1_ net-_q3-pad1_ net-_q1-pad3_ Q2N2222
q5 net-_q3-pad1_ net-_q3-pad1_ net-_q1-pad3_ Q2N2222
* Control Statements

.ends LM334